US05112866
2-[(4-Methylphenyl)amino]ethenesulfonyl Fluoride
The reaction between 4-methylaniline (1.61 g, 15 mmol) and ethenesulfonyl fluoride (2.18 g, 19 mmol) was carried out in DMF (30 mL) at ambient temperature for 2.5 hours as described in Example 16. There was obtained a tan residue which was crystallized from ether/hexane to afford the title compound as a tan solid (1.12 g 34% yield), mp 61°-65° C.

reactant | 4-methylaniline | 15 mmol, 1.61 g | CC1=CC=C(N)C=C1 | C7H9N
reactant | ethenesulfonyl fluoride | 19 mmol, 2.18 g | C(=C)S(=O)(=O)F | C2H3FO2S
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-[(4-Methylphenyl)amino]ethenesulfonyl Fluoride | 1.12 g, 34% yield | CC1=CC=C(C=C1)NC=CS(=O)(=O)F | C9H10FNO2S
